US08871760B2
To a stirring solution of 6-phenyl-piperidin-2-one (0.35 g, 2 mmol) in methylene chloride (1 mL) at 0° C. under nitrogen atmosphere was added methyl triflate (0.23 mL, 2 mmol). The reaction mixture was stirred at room temperature for three hours, then added to a stirring 0°C solution of anhydrous hydrazine (0.5 mL) in methanol (1 mL). The mixture was stirred for 3.5 hours at room temperature, then poured into a 1:1 mixture of methylene chloride and diethyl ether. The mixture was washed with 1.5M aqueous sodium carbonate, dried over anhydrous potassium carbonate, filtered, and concentrated under reduced pressure to give 0.34 g (90%) of [6-phenyl-piperidin-(2Z)-ylidene]-hydrazine as a colorless oil.

reactant | 6-phenyl-piperidin-2-one | 2 mmol, 0.35 g | C1(=CC=CC=C1)C1CCCC(N1)=O | C11H13NO
reactant | methyl triflate | 2 mmol, 0.23 mL | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | hydrazine | 0.5 mL | NN | H4N2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | [6-phenyl-piperidin-(2Z)-ylidene]-hydrazine | 0.34 g, 90% | C1(=CC=CC=C1)C1CCC/C(/N1)=N/N | C11H15N3
